US06133460
7-acetoxy-3-bromomethyl-4,8-dimethylcoumarin (2.50 g, 8.90 mmol) was refluxed in methanol (300 mL) overnight, cooled to room temperature and concentrated under vacuum to give crude 4,8-dimethyl-7-hydroxy-3-methoxymethylcoumarin. 1H NMR (CD3OD): δ 7.52 (d, J=8.8 Hz, 1H), 6.83 (d, J=8.8 Hz, 1H), 4.50 (s, 2H), 3.41 (s, 3H), 2.49 (s, 3H), 2.25 (s, 3H).

reactant | 7-acetoxy-3-bromomethyl-4,8-dimethylcoumarin | 8.90 mmol, 2.50 g | C(C)(=O)OC1=CC=C2C(=C(C(OC2=C1C)=O)CBr)C | C14H13BrO4
reactant | methanol | 300 mL | CO | CH4O
product | 4,8-dimethyl-7-hydroxy-3-methoxymethylcoumarin | CC1=C(C(OC2=C(C(=CC=C12)O)C)=O)COC | C13H14O4
